US07241760B2
4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine-1,1-dioxide
4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine (250 mg, 0.63 mmol) was dissolved in 6 mL of methanol and Oxone monopersulfate triple salt (389 mg, 0.63 mmol) was added. The reaction mixture was stirred at room temperature for 4 days. Then additional Oxone monopersulfate triple salt (78 mg, 1.3 mmol) was added to drive the reaction to completion. The reaction mixture was treated with 50 mL water. The pH was adjusted to 9 by addition of sat. sodium bicarbonate solution, and the reaction mixture was extracted three times with methylene chloride (50 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude material was purified by flash chromatography (heptane/ethyl acetate 1:4) and the desired product was obtained as a white solid (97 mg, 36%), MS: m/e=427.4, 429.4 (M+H+).

reactant | 4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine | 0.63 mmol, 250 mg | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)N1CCSCC1)C | C21H19ClN4S
reactant | water | 50 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | 4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine-1,1-dioxide | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)N1CCS(CC1)(=O)=O)C | C21H19ClN4O2S
